* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM4580
*BIPOLAR OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM4580 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm4580_s
X2 +IN2 -IN2 V+ V- OUT2 njm4580_s
.ENDS NJM4580
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm4580_s 1 2 3 4 5
  C1   11 12 {C1}
  C2    6  7 {C2}
  DC    5 53 DMOD2
  DE   54  5 DMOD2
  DLP  90 91 DMOD1
  DLN  92 90 DMOD1
  DP    4  3 DMOD1
  EGND 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 poly(5) vb vc ve vlp vln 0 1.34E+05 -1.00E+03 1.00E+03 1.34E+05 -1.34E+05
  GA    6  0 11 12 {GA}
  GCM   0  6 10 99 {GCM}
  IEE   3 10 dc {IEE}
  HLIM 90  0 vlim 1K
  Q1   11  2 13 PNP1
  Q2   12  1 14 PNP2
  R2    6  9 100.00E3
  RC1   4 11 {RC1}
  RC2   4 12 {RC2}
  RE1  13 10 {RE1}
  RE2  14 10 {RE2}
  REE  10 99 {REE}
  RO1   8  5 {RO1}
  RO2   7 99 {RO2}
  RP    3  4 {RP}
  VB    9  0 dc 0
  VC    3 53 dc {VC}
  VE   54  4 dc {VE}
  VLIM  7  8 dc 0
  VLP  91  0 dc {VLP}
  VLN   0 92 dc {VLN}

.MODEL DMOD1 D (T_MEASURED = 25	IS = 8.00E-16)
.MODEL DMOD2 D (T_MEASURED = 25	IS = 8.00E-16 RS = 1m CJO = 10p)

.MODEL PNP1 PNP (T_MEASURED = 25 IS = 8.00E-16 BF = 24390.2439)
.MODEL PNP2 PNP (T_MEASURED = 25 IS = {ISM2} BF = {BFM2})

.PARAM
+ C1 = 8.5E-11
+ C2 = 0.95E-09
+ GCM =	2.98E-07
+ GA = 9.42E-02
+ IEE =	5.07E-03
+ RC1 =	10.61
+ RC2 =	10.61
+ RE1 =	0.33
+ RE2 =	0.33
+ REE =	4.00E+04
+ RO1 =	50
+ RO2 =	25
+ RP = 3.75E+02
+ VC = 2.324
+ VE = 2.324
+ VLP =	80
+ VLN =	80
+ ISM2 = 8.092605E-16
+ BFM2 = 25641.02564

.ends njm4580_s
*$
